US05877199
Ethyl 9-benzyl-1-methylcarbazole-2-carboxylate
A solution of 29 mg of ethyl 1-methylcarbazole-2-carboxylate in 1 ml of N,N-dimethylformamide was added, with ice-cooling, to a suspension of 10 mg of sodium hydride (55% w/w dispersion in mineral oil) in 2 ml of N,N-dimethylformamide. 29 mg of benzyl bromide was then added to the reaction mixture, which was then stirred for 1 hour, with ice-cooling. After this time, a saturated aqueous solution of ammonium chloride was added to the reaction mixture. The aqueous layer was extracted with ethyl acetate and the organic extract was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 1 g of silica gel with a 9:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 38 mg of the title compound, melting at 79°-80° C.

reactant | ethyl 1-methylcarbazole-2-carboxylate | 29 mg | CC1=C(C=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C16H15NO2
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | benzyl bromide | 29 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Ethyl 9-benzyl-1-methylcarbazole-2-carboxylate | 38 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)C)C(=O)OCC | C23H21NO2
